US07186734B2
Sodium metal (1.85 g, 80.5 mmol) is dissolved in EtOH (50 mL). Next, thiourea (5.11 g, 67.1 mmol) is added to the NaOEt solution, followed by ethyl 2-n-butylacetoacetate (2.5 g, 13.4 mmol). The reaction mixture is stirred at reflux for 3 hours and then allowed to cool to room temperature overnight. The EtOH is removed in vacuo. The residue is then suspended in H2O (50 mL) and the resulting mixture carefully treated with concentrated HCl (˜7.5 mL) just until pH 4 is reached. After stirring for 15 minutes, the suspension is filtered, and the solid thoroughly washed with H2O. Drying affords pure 5-butyl-6-methyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one as a slightly off-white solid. 1H NMR (DMSO-d6, 300 MHz) δ 12.28 (br s, 1H), 12.05 (br s, 1H), 2.21 (m, 2H), 2.18 (s, 3H), 1.30–1.21 (m, 4H), 0.85 (t, J=6.9 Hz, 3H) ppm. MS: m/z 199 [M+1].

reactant | Sodium | 80.5 mmol, 1.85 g | [Na] | Na
reactant | thiourea | 67.1 mmol, 5.11 g | NC(=S)N | CH4N2S
reactant | NaOEt | CC[O-].[Na+]
reactant | ethyl 2-n-butylacetoacetate | 13.4 mmol, 2.5 g | C(CCC)C(C(=O)OCC)C(=O)C | C10H18O3
solvent | EtOH | 50 mL | CCO | C2H6O
product | 5-butyl-6-methyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | C(CCC)C=1C(NC(NC1C)=S)=O | C9H14N2OS
